US05358950
5.7 g of sodium are dissolved in 150 ml of methanol, and 19 g of thiourea are added to this solution. The mixture is stirred for 5 minutes and 58 g of ethyl 3-oxo-2-[(2'-cyano-4-biphenylyl)methyl]hexanoate, prepared in Example 4, are added. The mixture is then heated to reflux for 10 hours and the methanol is evaporated off under vacuum. The residue is taken up with water and washed with ether, the aqueous phase is neutralised by adding dilute hydrochloric acid and the crystals obtained are filtered off and washed with water and with ether to give 26 g of 6-n-propyl-2-mercapto-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine in the form of crystals of melting point 191° C.

reactant | sodium | 5.7 g | [Na] | Na
reactant | thiourea | 19 g | NC(=S)N | CH4N2S
reactant | ethyl 3-oxo-2-[(2'-cyano-4-biphenylyl)methyl]hexanoate | 58 g | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)CCC | C22H23NO3
solvent | methanol | 150 ml | CO | CH4O
product | 6-n-propyl-2-mercapto-4-hydroxy-5-[(2'-cyano-4-biphenylyl)methyl]pyrimidine | 26 g | C(CC)C1=C(C(=NC(=N1)S)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C21H19N3OS
